US08791108B2
To a mixture of (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid (30 mg, 0.068 mmol) and 3,3-dimethylbutan-1-amine (13.69 mg, 0.135 mmol) in DMF (1.5 mL) was added DIEA (0.059 mL, 0.338 mmol), HATU (51.4 mg, 0.135 mmol) and DMAP (1.653 mg, 0.014 mmol) and the resulting mixture was stirred at room temp for 16 h. At this point LCMS indicated completion of reaction. Water was then added and the mixture was extracted with ether (25 mL), washed with brine (15 mL), dried (Na2SO4), filtered and concentrated. Crude was then treated with 1N NaOH (0.203 mL, 0.203 mmol) in MeOH (1.500 mL) at 60° C. for 5 h. Mixture was then cooled and purified by prep-HPLC to afford (S)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid (23.6 mg, 0.045 mmol, 66.5% yield). 1H NMR (500 MHz, DMSO-d6) δ 7.96 (t, J=5.8 Hz, 1H), 6.88 (s, 1H), 6.26 (br. s., 0.6H), 5.85 (br. s., 0.4H), 5.38 (s, 0.6H), 5.28 (s, 0.4H), 3.37-3.28 (m, 4H), 2.66 (s, 1H), 2.59 (s, 2H), 2.19-1.97 (m, 2H), 1.68-1.50 (m, 2H), 1.47 (t, J=7.9 Hz, 2H), 1.19 (s, 3H), 1.15 (s, 6H), 1.12 (s, 3H), 1.07 (s, 3H), 0.94 (s, 9H). LCMS (M+H)=499.4.

reactant | (S)-6-(1-(tert-butoxy)-2-ethoxy-2-oxoethyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.068 mmol, 30 mg | C(C)(C)(C)O[C@H](C(=O)OCC)C=1C(=NC=2N(C1C1=CCC(CC1)(C)C)N=C(C2)C(=O)O)C | C24H33N3O5
reactant | 3,3-dimethylbutan-1-amine | 0.135 mmol, 13.69 mg | CC(CCN)(C)C | C6H15N
reactant | DIEA | 0.338 mmol, 0.059 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 0.135 mmol, 51.4 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | NaOH | 0.203 mmol, 1N, 0.203 mL | [OH-].[Na+]
solvent | DMF | 1.5 mL | CN(C)C=O | C3H7NO
catalyst | DMAP | 0.014 mmol, 1.653 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | MeOH | 1.500 mL | CO | CH4O
solvent | Water | O | H2O
product | (S)-2-(tert-butoxy)-2-(2-((3,3-dimethylbutyl)carbamoyl)-7-(4,4-dimethylcyclohex-1-en-1-yl)-5-methylpyrazolo[1,5-a]pyrimidin-6-yl)acetic acid | 0.045 mmol, 23.6 mg, 66.5% yield | C(C)(C)(C)O[C@H](C(=O)O)C=1C(=NC=2N(C1C1=CCC(CC1)(C)C)N=C(C2)C(NCCC(C)(C)C)=O)C | C28H42N4O4
